US04636382
46.6 grams (0.16 mole) of 6-propyl-2-benzylamino-1-nonanol and 11 grams (0.20 moles) of ethylene oxide in 200 ml. 96% ethanol were kept at 100° C. in an autoclave with careful stirring for three hours. The reaction mixture was evaporated. 57 grams (100%) of GLC-unitary substance were obtained, viz. N-(2-hydroxyethyl)-6-propyl-2-benzylamino-1-nonanol. Said 57 grams were dissolved in 450 ml. of 70% (w/w) sulfuric acid and kept in a glass autoclave at 140°-150° C. for 15 hours. The reaction mixture was admixed with an excess of 40% aqueous NaOH and extracted with diethyl ether. The ether extract was dried over sodium sulphate and evaporated. Distillation gave 49.7 grams (93%) N-benzyl-3-(4-propyl-heptyl)morpholine, boiling point 163°-165° C./0.01 mm Hg. This substance (49.7 grams) and 3 grams of 10% (w/w) Pd-C in 500 ml. 96 % ethanol were hydrogenated in a steel autoclave at 100° C. and 100 atmospheres hydrogen pressure for 12 hours. Conventional processing gave 34.2 grams (96%) of 3-(4-propyl-heptyl)morpholine, boiling point 76°-78° C./0.01 mm Hg. The base obtained was dissolved in ether and the hydrochloride precipitated with hydrochloric acid in ethanol. Recrystallization gave crystals having a melting point of 118°-119° C.

reactant | 6-propyl-2-benzylamino-1-nonanol | 0.16 mole, 46.6 grams | C(CC)C(CCCC(CO)NCC1=CC=CC=C1)CCC | C19H33NO
reactant | ethylene oxide | 0.20 moles, 11 grams | C1CO1 | C2H4O
reactant | N-(2-hydroxyethyl)-6-propyl-2-benzylamino-1-nonanol | OCCN(C(CO)CCCC(CCC)CCC)CC1=CC=CC=C1 | C21H37NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-benzyl-3-(4-propyl-heptyl)morpholine | 49.7 grams, 93% | C(C1=CC=CC=C1)N1C(COCC1)CCCC(CCC)CCC | C21H35NO
